US07074799B2
2. 3-Trifluoromethyl-1′H-[2,3′]bipyridinyl-6′-one
Heat 6′-methoxy-3-trifluoromethyl-[2,3′]bipyridinyl (41 g, 0.16 mol) in 30% HBr/AcOH (100 mL) to reflux for 1 hour. Cool the mixture and filter, and wash the precipitate with ether (100 mL). Transfer the precipitate into 10M sodium hydroxide (500 mL) and stir for 1 hour, and treat the solution with hydrochloric acid until the solution is pH 7. Collect the white solid by filtration and air dry to give the title compound (36 g, 93%) as a white solid.

reactant | 6′-methoxy-3-trifluoromethyl-[2,3′]bipyridinyl | 0.16 mol, 41 g | COC1=CC=C(C=N1)C1=NC=CC=C1C(F)(F)F | C12H9F3N2O
solvent | HBr AcOH | 100 mL | Br.CC(=O)O
product | 3-Trifluoromethyl-1′H-[2,3′]bipyridinyl-6′-one | 36 g, 93% | FC(C=1C(=NC=CC1)C1=CNC(C=C1)=O)(F)F | C11H7F3N2O
